US07285555B2
To a solution of 7-chloro-N-(2,2,2-trifluoroethyl)-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-5-amine (19 mg, 0.05 mmol) and 3-dimethylamino-1-propanol (51 m g, 0.5 mmol) in 0.5 mL of dimethylsulfoxide at room temperature is added sodium hydride (60% in mineral oil, 20 mg, 0.5 mmol). The mixture is heated at 50° C. for 30 minutes, and cooled to room temperature. A saturated sodium chloride solution is added, and the product is extracted with ethyl acetate. The organic solution is washed with saturated sodium chloride (×3), dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of ethyl acetate to 30% methyl alcohol in ethyl acetate. Concentration provides 7-chloro-6-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-N-(2,2,2-trifluoroethyl)imidazo[1,2-a]pyrimidin-5-amine as a tan solid (12 mg, mp 52-55° C.). MS: m/z 464.3 (M+H).

reactant | 7-chloro-N-(2,2,2-trifluoroethyl)-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-5-amine | 0.05 mmol, 19 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)NCC(F)(F)F)C=CN2 | C14H7ClF6N4
reactant | 3-dimethylamino-1-propanol | 0.5 mmol | CN(CCCO)C | C5H13NO
reactant | sodium hydride | 0.5 mmol, 20 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
product | 7-chloro-6-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-N-(2,2,2-trifluoroethyl)imidazo[1,2-a]pyrimidin-5-amine | 12 mg | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)OCCCN(C)C)F)NCC(F)(F)F)C=CN2 | C19H19ClF5N5O
